US07253192B2
A] (4-But-3-ynylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester
In analogy to the procedure described in example 5A], (4-acetylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester (example 4A]) and 4-chloro-but-1-yne gave the title compound as orange oil.

reactant | (4-acetylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | 4-chloro-but-1-yne | ClCCC#C | C4H5Cl
product | (4-But-3-ynylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCCC#C)C)=O | C17H22O3S
